US04007033
Preparation of 1-methyl-1-(1,2,2,2-tetrachloroethyl)-3-(2-fluorophenyl) urea
N-methyl-N'-o-fluorophenyl urea (16.8 g, 0.1 mol) was combined with 22.5 g (0.15 mol) chloral and 18.0 g (0.15 mol) thionyl chloride. After several minutes an exothermicity was noted and the reaction mixture became a homogenous yellow oil. After 5 minutes more, a precipitate began to form. After 11/2 hours a 3:1 mixture of diethyl ether:petroleum ether was added and the product was collected on a filter and dried. The solid, which weighed 25 g, melted at 130°-141° C. and analyzed as follows: %Cl, calculated 35.7, found 37.3; %N, calculated 9.5, found 9.5.

reactant | N-methyl-N'-o-fluorophenyl urea | 0.1 mol, 16.8 g | CNC(=O)NC1=C(C=CC=C1)F | C8H9FN2O
reactant | chloral | 0.15 mol, 22.5 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | thionyl chloride | 0.15 mol, 18.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-methyl-1-(1,2,2,2-tetrachloroethyl)-3-(2-fluorophenyl) urea | CN(C(=O)NC1=C(C=CC=C1)F)C(C(Cl)(Cl)Cl)Cl | C10H9Cl4FN2O
